US03962264
A. 1-Methoxy-4,4-dicyano-1,3-butadiene
A solution of 2.0 g. (31 m moles) of malononitrile and 5 g. (31 m moles) of 1,1,3,3-tetramethoxypropane in 12 ml. of acetic anhydride is heated to reflux for 24 hrs. The reaction mixture is distilled separating the lower boiling by-products and solvent from the product. The product fraction is diluted with water and the resulting precipitate is filtered and recrystallized from isopropanol-water, 1.0 g., m.p. 74°-76° C.

reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | 1,1,3,3-tetramethoxypropane | COC(CC(OC)OC)OC | C7H16O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Methoxy-4,4-dicyano-1,3-butadiene | COC=CC=C(C#N)C#N | C7H6N2O
